US06203724B1
32.48 g of KOtBu are added at RT to 47.50 g of 4-(1,2-dibromoethyl)-4,4′-dipentylbicyclohexyl in 150 ml of tert-butanol. The mixture is heated to 60° C. and stirred at this temperature overnight. Water is subsequently added to the reaction mixture, which is acidified with dilute hydrochloric acid and subjected to conventional work-up, giving 4-ethynyl-4,4′-dipentylbicyclohexyl.

reactant | KOtBu | 32.48 g | CC(C)(C)[O-].[K+]
reactant | 4-(1,2-dibromoethyl)-4,4′-dipentylbicyclohexyl | BrC(CBr)C1(CCC(CC1)C1CCC(CC1)CCCCC)CCCCC | C24H44Br2
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tert-butanol | 150 ml | C(C)(C)(C)O | C4H10O
product | 4-ethynyl-4,4′-dipentylbicyclohexyl | C(#C)C1(CCC(CC1)C1CCC(CC1)CCCCC)CCCCC | C24H42
